US07652051B2
Synthesis of 6-{4-[5-(4-chloro-3-trifluoromethyl-phenylamino)-4H-[1,2,4]triazol-3-yl]-phenoxy}-pyrimidine-2,4-diamine
4-[5-(4-chloro-3-trifluoromethyl-phenylamino)-4H[1,2,4]triazol-3-yl]-phenol (1.3 g, 3.66 mmol) was dissolved in 18 mL of anhydrous dioxane in a 10-20 mL microwave vial (Personal Chemistry). Solid Cs2CO3 (1.19 g, 3.66 mmol, 1.0 eq) was added and the reaction mixture was stirred with heating at 80° C. for 10 min, then 4-chloro-2,4-diaminopyrimidine (0.530 g, 3.66 mmol) was added. The vial was capped and microwaved at 200° C. for 25 min. Then the reaction mixture was diluted with ca. 10 mL of MeOH, transferred into a round-bottom flask and concentrated in vacuo to ca. 20 mL. The resulting reddish solution was loaded on a short pad of silica gel and eluted first with 100% ethyl acetate to remove the unreacted starting material and then with 20% MeOH in EtOAc to elute the product. The product was further purified by ISCO system (80 g pre-packed column, 40 min method, 0% to 10% MeOH gradient in ethyl acetate). Solvent was removed in vacuo to give the title product as an off-white solid (0.785 g). Yield 46.3%.

reactant | 4-[5-(4-chloro-3-trifluoromethyl-phenylamino)-4H[1,2,4]triazol-3-yl]-phenol | 3.66 mmol, 1.3 g | ClC1=C(C=C(C=C1)NC=1NC(=NN1)C1=CC=C(C=C1)O)C(F)(F)F | C15H10ClF3N4O
reactant | Cs2CO3 | 3.66 mmol, 1.19 g, 1.0 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-chloro-2,4-diaminopyrimidine | 3.66 mmol, 0.530 g | ClC1(NC(=NC=C1)N)N | C4H7ClN4
solvent | dioxane | 18 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | ca. 10 mL | CO | CH4O
product | 6-{4-[5-(4-chloro-3-trifluoromethyl-phenylamino)-4H-[1,2,4]triazol-3-yl]-phenoxy}-pyrimidine-2,4-diamine | 0.785 g, Yield 46.3% | ClC1=C(C=C(C=C1)NC=1NC(=NN1)C1=CC=C(OC2=CC(=NC(=N2)N)N)C=C1)C(F)(F)F | C19H14ClF3N8O
